US04322370
4-(4-Chlorophenyl)-2,2-dimethyl-7-(2-dimethylaminoethoxy)-1-methylidene tetralin
An ethereal solution of methyllithium (50 ml, 1.9 M) was added over 45 min. to a stirred solution of 4-(4-chlorophenyl)-2,2-dimethyl-7-(2-dimethylaminoethoxy)-1-tetralone (18.5 g) in dry ether (150 ml) and the mixture heated under reflux for 30 min. After cooling, excess methyllithium was decomposed with water, the ether layer was separated, dried (MgSO4) and treated with a solution of hydrogen chloride in ether. The hydrochloride salt of 4-(4-chlorophenyl)-2,2-dimethyl-7-(2-dimethylaminoethoxy)-1-methylidene tetralin precipitated as a white solid (15.6 g, 77%). A portion was recrystallized from ethanol-ether, m.p. 233°-235°.

reactant | methyllithium | 1.9 M, 50 ml | C[Li]
reactant | 4-(4-chlorophenyl)-2,2-dimethyl-7-(2-dimethylaminoethoxy)-1-tetralone | 18.5 g | ClC1=CC=C(C=C1)C1CC(C(C2=CC(=CC=C12)OCCN(C)C)=O)(C)C | C22H26ClNO2
reactant | water | O | H2O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 4-(4-Chlorophenyl)-2,2-dimethyl-7-(2-dimethylaminoethoxy)-1-methylidene tetralin | ClC1=CC=C(C=C1)C1CC(C(C2=CC(=CC=C12)OCCN(C)C)=C)(C)C | C23H28ClNO
